US07608633B2
A. tert-Butylpyrrole-3-carboxylate
0.50 g (4.50 mmol) pyrrole-3-carboxylic acid is suspended in 15 ml absolute benzene and boiled under reflux. A solution 4.07 g (18.0 mmol) 90% N,N-dimethylformamidedi-tert-butylacetal in 15 ml absolute benzene is added drop-wise within 30 min. Following another heating under reflux for 30 minutes and subsequent cooling, the reaction mixture is diluted with diethyl ether, washed with 5% sodium carbonate solution and saturated NaCl solution. Drying on sodium sulfate, filtration and concentration on the rotary evaporator leave as a crude product a yellow solid which is purified on silica gel by means of column chromatography (flow agent: petroleum ether/ethyl acetate 90:10) and yields the product as a white solid.

reactant | pyrrole-3-carboxylic acid | 4.50 mmol, 0.50 g | N1C=C(C=C1)C(=O)O | C5H5NO2
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-Butylpyrrole-3-carboxylate | C(C)(C)(C)OC(=O)C1=CNC=C1 | C9H13NO2
